US04510256
Preparation of N,N,N-Trimethyl Neopentylammonium Iodide
11.51 Grams of neopentylamine (Aldrich), 48.7 grams of tributyl amine and 100 ml of DMF were mixed and cooled. 56 Grams of methyl iodide (Aldrich) were added dropwise and the reaction as carried out and worked up as in Example 1.

reactant | neopentylamine | C(C(C)(C)C)N | C5H13N
reactant | tributyl amine | 48.7 grams | C(CCC)N(CCCC)CCCC | C12H27N
reactant | methyl iodide | CI | CH3I
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N,N,N-Trimethyl Neopentylammonium Iodide | [I-].C[N+](C)(C)CC(C)(C)C | InChI=1S/C8H20N.HI/c1-8(2,3)7-9(4,5)6;/h7H2,1-6H3;1H/q+1;/p-1
